US04595683
2-Benzyl-3-chloro-5-methoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide
A stirred mixture of 2-benzyl-5-methoxy-2H-1,2,4,6-thiatriazin-3-one-1,1-dioxide (10.5 g) and PCl5 (12.2 g) in POCl3 (35 ml) is refluxed overnight. The reaction mixture is evaporated in vacuo at 50° C. affording the crude product as an oil.

reactant | 2-benzyl-5-methoxy-2H-1,2,4,6-thiatriazin-3-one-1,1-dioxide | 10.5 g | C(C1=CC=CC=C1)N1S(N=C(NC1=O)OC)(=O)=O | C10H11N3O4S
reactant | PCl5 | 12.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | POCl3 | 35 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Benzyl-3-chloro-5-methoxy-2H-1,2,4,6-thiatriazine-1,1-dioxide | C(C1=CC=CC=C1)N1S(N=C(N=C1Cl)OC)(=O)=O | C10H10ClN3O3S
